US08426432B2
2,4-Diamino-5-iodopyrimidine (236 mg) was allowed to react with 5-Ethynyl-1,2,3-trimethoxybenzene (384 mg) as per the general procedure to afford 2,4-Diamino-5-(2-(3,4,5-trimethoxyphenyl)ethynyl)pyrimidine as a white powder (270 mg, 90%): Rf=0.28 (9:1, CHCl3:MeOH); mp=202-204° C.; 1H NMR (DMSO-d6) δ 7.94 (s, 1H), 6.90 (s, 2H), 6.37 (s, 2H), 3.79 (s, 6H), 3.67 (s, 3H); 13C NMR (DMSO-d6) δ 163.4, 162.2, 159.4, 159.2, 152.8, 137.6, 118.6, 108.3, 108.2, 94.7, 89.8, 83.4, 60.2, 60.1, 56.0, 55.9; Anal. (C15H16N4O3) C, H, N.

reactant | 2,4-Diamino-5-iodopyrimidine | 236 mg | NC1=NC=C(C(=N1)N)I | C4H5IN4
reactant | 5-Ethynyl-1,2,3-trimethoxybenzene | 384 mg | C(#C)C=1C=C(C(=C(C1)OC)OC)OC | C11H12O3
product | 2,4-Diamino-5-(2-(3,4,5-trimethoxyphenyl)ethynyl)pyrimidine | 270 mg, 90% | NC1=NC=C(C(=N1)N)C#CC1=CC(=C(C(=C1)OC)OC)OC | C15H16N4O3
